US05077304
0.77 g of 4-chlorophenol and 1.00 g of potassium carbonate are suspended in 6 ml of dimethyl sulfoxide and the suspension is heated for 1 hour at +60° C.; a solution of 1.46 g of 6-chloro-2,4-diisopropyl-3-nitropyridine in 4 ml of dimethyl sulfoxide is then added dropwise. When the addition is complete, the mixture is heated for 1 hour at +120° C. with vigorous stirring. After cooling, the reaction mixture is poured onto 100 ml of water and 50 ml of toluene and then saturated with sodium chloride. The resulting suspension is filtered over diatomaceous earth and the filtrate is extracted with toluene. The organic phase is dried over magnesium sulfate and the solvent is evaporated. The residue is purified by column chromatography on silica gel (eluant: ethyl acetate/hexane 1:30). 2,4-Diisopropyl-6-(4-chlorophenoxy)-3-nitropyridine is obtained in the form of a light-yellow crystalline powder, m.p. 102°-104° C.

reactant | 4-chlorophenol | 0.77 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | potassium carbonate | 1.00 g | C([O-])([O-])=O.[K+].[K+]
reactant | 6-chloro-2,4-diisopropyl-3-nitropyridine | 1.46 g | ClC1=CC(=C(C(=N1)C(C)C)[N+](=O)[O-])C(C)C | C11H15ClN2O2
reactant | sodium chloride | [Cl-].[Na+]
solvent | dimethyl sulfoxide | 6 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 4 ml | CS(=O)C | C2H6OS
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 100 ml | O | H2O
product | 2,4-Diisopropyl-6-(4-chlorophenoxy)-3-nitropyridine | C(C)(C)C1=NC(=CC(=C1[N+](=O)[O-])C(C)C)OC1=CC=C(C=C1)Cl | C17H19ClN2O3
